2155-05-26 06:46:00 Physician Resident Progress Note
Chief Complaint: fever, respiratory distress, afib with RVR
   24 Hour Events:
 FEVER - 101.2
F - [**2155-5-25**] 04:06 PM
   HR 100-130s all night
   G tube study performed that confirmed correct placement of G tube
   Scopolamine patch started, at family
s request, given persistent
   secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-25**] 10:30 PM
   Metronidazole - [**2155-5-26**] 04:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-26**] 04:26 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2155-5-26**] 03:56 AM
   Morphine Sulfate - [**2155-5-26**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-26**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (100.9
   HR: 125 (109 - 136) bpm
   BP: 104/58(68) {96/55(66) - 175/89(125)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,050 mL
                                                                    555 mL
   PO:
             TF:
   IVF:
                                                                  1,050 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                     95 mL
                                                                    310 mL
   Urine:
                                                                     95 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,955 mL
                                                                    245 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   CXR:
   CONCLUSION: No pneumonia or over CHF. Left upper lobe lung nodule
   poorly seen. Chronic left basilar atelectasis/effusion.
   Assessment and Plan
   [**Age over 90 382**] year old male with multiple medical issues including progressive
   aphasia, C-diff colitis, recurrent urosepsis presenting with fever,
   lethargy, respiratory distress, volume depletion.
   #. Leukocytosis/fever: Patient meeting criteria for sepsis. possible
   source of infection in urine with + UA, C-diff in addition to meeting
   two SIRS criteria with temp and elevated WBC. Patient febrile and
   tachycardic on admission. Indwelling foley, hx of klebsiella and
   pseudomonas UTI, MRSA bacteremia, fungemia. Hx of C-diff with recurrent
   diarrhea. CXR shows no obvious infiltrate.
   -follow up Blood cxs, urine cultures
   -continue Vanc/zosyn (day 1 = [**5-25**])  to empirically cover for UTI
   -IV flagyl- potentially will not cover continued c-diff relapse but
   unable to use the G tube at this time. Once confirm use will give PO
   vanc and consider continuing IV flagyl.
   -consider discussion of changing patient foley but indwelling so after
   discussion with family and potentially urology
   .
   Respiratory distress: unclear etiology and unable to obtain ABG. No
   eveidence of flash pulmonary edema in the setting of A-fib with RVR.
   Lactate elevated. Unlikely completely a compensatory response to a
   metabolic acidosis. Unclear whether aspiration. No hx of lung disease.
   Will continue to watch for ARDS in the setting of infection but stable
   on Fio2 35% face mask at this time.  No infiltrate seen on CXR.
   -ipratropium nebs
   -Face mask with supplemental O2
   -no BiPAP, no intubation per patient's and family's wishes
   -NPO as patient is NPO at baseline and aspiration precautions
   -No ABG as per family
   -repeat CXR to assess for fluid overload.
   .
   # Atrial Fibrillation with Rapid Ventricular Response: Patient
   presented with rates in 110s-150s. Pt is rate controlled as outpatient
   on diltiazem 90mg QID, and metoprolol 100mg TID. Patient did not
   receive BB and CCB for >24 hours. Also did not receive any hydration
   for >24 hours. Patient also with potential sepsis with fever. Overnight
   got IV metoprolol.  Given that G tube is functioning, would restart
   outpatient regiment of diltiazem and metoprolol via G tube.
   -continue bolus IV fluids as BP and HR tolerate
   .
   # Acute on Chronic Renal Insufficiency: Cr baseline is 0.9 to 1.1. Cr
   on admission is 1.9. Likely prerenal as patient was not taking any
   liquids po prior to admission.
   -continue IV fluids
   -D5W and reassess in AM as family would like only one blood draw daily.
   Trend Cr with next lab draw.
   -will not send urine lytes at this time. Likely not postobstructive as
   with foley
   .
   # Hypernatremia: Free water deficit on admission was >3L. Patient was
   given 3L NS in ED. Received D5W 100 cc/hr x 2L overnight.
   -will check AM Na as family would not like blood draw today
   .
   # G tube dysfunction: per NH this was clogged. As per nurse here able
   to flush but not return therefore concern for placement. G tube study
   shows that it is appropriately placed and functional.
   -  resume all home meds through G tube
   .
   # Glaucoma: Continued Brimonidine, Dorzolamide, Latanoprost
   # Anemia: Patient currently hemoconcentrated. No clear evidence of
   bleeding but will not send other labs in this regard
   # BPH: Chronic Foley catheter in place. Will speak with family
   regarding changing this.
   # Hypertension: Restart home regimen of metoprolol and diltiazem for
   rate control. BPs 120s/60s this AM.
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Pneumoboots
   .
   # Access: peripherals
   .
   # Code: DNR/DNI
   .
   # Communication: Daughter [**Name (NI) **] [**Telephone/Fax (3) 8928**]
   [**Doctor Last Name 1626**] [**Telephone/Fax (1) 8929**]
   .
   # Disposition: Discussed at length goals of care with family. Patient
   was initially comfort measures only but daughter did not want father to
   be without basic hydration as was her main concern. Patient is now
   DNR/DNI w/o aggressive care. Abx, IV fluids, BP meds allowed. Once
   daily labs. If deteriorates over the day or G tube non functioning will
   not replace and call to family and comfort measures only will be
   initiated. Palliative care consult placed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2155-5-25**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-05-27 07:37:00 Physician Resident Progress Note
Chief Complaint: respiratory distress, fevers
   24 Hour Events:
 FEVER - 101.2
F - [**2155-5-26**] 08:30 PM
   -Increased morphine to 4mg/hr, pt. now on ativan 1-4mg/hr
   +GPC in pairs and clusters on BCx from [**5-25**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-25**] 10:30 PM
   Metronidazole - [**2155-5-26**] 04:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-26**] 04:26 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-5-27**] 04:00 AM
   Morphine Sulfate - [**2155-5-27**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.4
C (97.6
   HR: 115 (97 - 125) bpm
   BP: 110/70(81) {86/27(41) - 138/87(97)} mmHg
   RR: 12 (6 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  2,231 mL
                                                                    226 mL
   PO:
                  TF:
                                                                    130 mL
                                                                     76 mL
   IVF:
                                                                  1,531 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                     90 mL
   Urine:
                                                                    640 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,591 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   8.3 g/dL
   118 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   47 mg/dL
   117 mEq/L
   146 mEq/L
   26.3 %
   13.3 K/uL
   from [**5-26**]     [image002.jpg]
                             [**2155-5-26**]  08:12 AM
   WBC
   13.3
   Hct
   26.3
   Plt
   246
   Cr
   1.9
   Glucose
   118
   Other labs: PT / PTT / INR:14.1/26.8/1.2, Ca++:8.0 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 382**] year old male with multiple medical issues including progressive
   aphasia, C-diff colitis, recurrent urosepsis presenting with fever,
   lethargy, respiratory distress, volume depletion. CXR [**5-26**] shows
   blossomed LLL pneumonia.
   # Goals of care: Discussed at length goals of care with family. Agree
   to comfort measures only. Will continue to hydrate along with tube
   feeds. D/c antibiotics, beta blocker. No further lab studies.
   Palliative care consult placed.
   -f/u palliative care recs
   -scopolamine patch for secretions
   -morphine IV PRN discomfort, pain
will speak with family regarding
   their wishes for morphine gtt as patient now requiring 4mg IV q hour
   -haldol, ativan IV PRN agitation
   -tylenol PRN fever
   # FEN: IVF, replete electrolytes, tube feeds
   .
   # Prophylaxis: Pneumoboots
   .
   # Access: PIV x1
   .
   # Code: DNR/DNI
   .
   # Communication: Daughter [**Name (NI) **] [**Telephone/Fax (3) 8928**]
   [**Doctor Last Name 1626**] [**Telephone/Fax (1) 8929**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2155-5-26**] 11:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-5-26**] 10:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2155-05-28 06:53:00 Physician Resident Progress Note
Chief Complaint: fever, respiratory distress
   24 Hour Events:
 FEVER - 101.6
F - [**2155-5-28**] 04:00 AM
   Patient on a morphine drip at 10mg/hour
   HR as high as 190s at times
   Desats o 70s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-5-25**] 10:30 PM
   Metronidazole - [**2155-5-26**] 04:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-26**] 04:26 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2155-5-27**] 06:00 PM
   Morphine Sulfate - [**2155-5-27**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 149 (112 - 161) bpm
   BP: 118/53(67) {105/50(66) - 155/87(100)} mmHg
   RR: 27 (7 - 27) insp/min
   SpO2: 74%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    682 mL
                                                                    312 mL
   PO:
             TF:
                                                                    240 mL
                                                                     69 mL
   IVF:
                                                                     22 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                    185 mL
   Urine:
                                                                    435 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    247 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 74%
   ABG: ////
   Physical Examination
   Gen: Sleeping, slow breathing, NAD
   Lungs: Course crackles bilaterally on anterior exam
   CV: Irregularly irregular. No murmurs heard.
   Abdomen: Soft, NT, ND, No masses. No rebound or guarding
   Extremities: WWP. 1+ LE edema
   Labs / Radiology
   246 K/uL
   8.3 g/dL
   118 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   47 mg/dL
   117 mEq/L
   146 mEq/L
   26.3 %
   13.3 K/uL
        [image002.jpg]
                             [**2155-5-26**]  08:12 AM
   WBC
   13.3
   Hct
   26.3
   Plt
   246
   Cr
   1.9
   Glucose
   118
   Other labs: PT / PTT / INR:14.1/26.8/1.2, Ca++:8.0 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 382**] year old male with multiple medical issues including progressive
   aphasia, C-diff colitis, recurrent urosepsis presenting with fever,
   lethargy, respiratory distress, volume depletion. CXR [**5-26**] shows
   blossomed LLL pneumonia.
   # Goals of care: Family has agreed to comfort measures only. Will
   continue to hydrate along with tube feeds. D/c antibiotics, beta
   blocker. No further lab studies. Palliative care consult placed.
   -f/u palliative care recs
   -scopolamine patch for secretions
   -morphine gtt
uptitrate as needed
   -haldol, ativan IV PRN agitation
   -tylenol PRN fever
   # FEN: IVF, replete electrolytes, tube feeds
   .
   # Prophylaxis: Pneumoboots
   .
   # Access: PIV x1
   .
   # Code: DNR/DNI
   .
   # Communication: Daughter [**Name (NI) **] [**Telephone/Fax (3) 8928**]
   [**Doctor Last Name 1626**] [**Telephone/Fax (1) 8929**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2155-5-26**] 11:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2155-5-26**] 10:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: